US04863948
(C) 2-Hydroxy-2-(4-methanesulphonamidophenyl)-N-methyl-N-[2-(5-phenyl-2H-pyridazin-3-on-2-yl)ethyl] ethylamine
2-[-Phenyl-2H-pyridazin-3-on-2-yl]ethyl bromide (0.28 g), 2-hydroxy-N-methyl-2-(4-methanesulphonamidophenyl)ethylamine (0.24 g) and triethylamine (0.22 g) were refluxed in ethanol (30 ml) for 4 hours. The solvent was removed and the residue taken up in methylene chloride, washed with water, evaporated and the residue chromatographed on silica [Merck `Kieselgel 60` (Trade Mark)], eluting with ethyl acetate. Collection and evaporation of appropriate fractions gave the title compound as a solid which was recrystallised from diisopropyl ether, yield 0.1 g, m.p. 108°.

reactant | 2-[-Phenyl-2H-pyridazin-3-on-2-yl]ethyl bromide | 0.28 g | C1(=CC=CC=C1)C=1C(N(N=CC1)CCBr)=O | C12H11BrN2O
reactant | 2-hydroxy-N-methyl-2-(4-methanesulphonamidophenyl)ethylamine | 0.24 g | OC(CNC)C1=CC=C(C=C1)NS(=O)(=O)C | C10H16N2O3S
reactant | triethylamine | 0.22 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 2-Hydroxy-2-(4-methanesulphonamidophenyl)-N-methyl-N-[2-(5-phenyl-2H-pyridazin-3-on-2-yl)ethyl] ethylamine | OC(CN(CCN1N=CC(=CC1=O)C1=CC=CC=C1)C)C1=CC=C(C=C1)NS(=O)(=O)C | C22H26N4O4S
